US06809108B1
Synthesis of (2R)-1-{(2S,4S)-4-amino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide
To a solution of 24 mg of (2R)-1-{(2S,4S)-4-azido-1-(3,3,3-triphenyl-propanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide in 0.5 ml of 20% hydrous tetrahydrofuran, 13 mg of triphenylphosphine was added at room temperature, followed by 3 hours' refluxing under heating. The reaction liquid was diluted with chloroform, washed with saturated aqueous sodium bicarbonate solution and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resultant residue was purified by means of a preparative thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=90/10/1) to provide 16 mg of the title compound in the form of a white solid.

reactant | (2R)-1-{(2S,4S)-4-azido-1-(3,3,3-triphenyl-propanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 24 mg | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C44H55N7O3
reactant | triphenylphosphine | 13 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R)-1-{(2S,4S)-4-amino-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}pyrrolidine-2-carboxamide | 16 mg | N[C@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C44H57N5O3
